US06900215B2
3-Bromo-7-trifluoromethylimidazo[1,2-α]pyrimidine was coupled with 2,4-difluoro-3-(pyridin-3-yl)benzeneboronic acid as described in Example 1 to give 3-[2,4-difluoro-3-(pyridin-3-yl)phenyl]-7-trifluoromethylimidazo[1,2-α]pyrimidine as an off-white solid. Bis-hydrochloride salt (from ethyl acetate/ethanol): δH (400 MHz, DMSO) 7.60-7.65 (2H, m), 7.90-7.96 (2H, m), 8.34 (1H, s), 8.47 (1H, d, J 8), 8.87 (1H, dd, J 5 and 1), 9.08 (1H, s), 9.32 (1H, dd, J 7 and 3).

reactant | 3-Bromo-7-trifluoromethylimidazo[1,2-α]pyrimidine | BrC1=CN=C2N1C=CC(=N2)C(F)(F)F | C7H3BrF3N3
reactant | 2,4-difluoro-3-(pyridin-3-yl)benzeneboronic acid | FC1=C(C=CC(=C1C=1C=NC=CC1)F)B(O)O | C11H8BF2NO2
product | 3-[2,4-difluoro-3-(pyridin-3-yl)phenyl]-7-trifluoromethylimidazo[1,2-α]pyrimidine | FC1=C(C=CC(=C1C=1C=NC=CC1)F)C1=CN=C2N1C=CC(=N2)C(F)(F)F | C18H9F5N4
